US08252937B2
2-[4-(4-Bromo-phenoxy)-phenyl]-propan-2-ol (D28)
A 1.4 M solution of methylmagnesium bromide in THF (7.36 ml; 10.304 mmol) was added to a stirred solution of 4′-(4-bromophenoxy)acetophenone (1 g, 3.435 mmol; [CAS: 54916-27-7]) in THF (40 ml) at 0° C. under a nitrogen atmosphere. The reaction mixture was stirred for 3 hours. The reaction was quenched by the addition of an aqueous solution of saturated ammonium chloride and extracted with EtOAc. The combined organic extracts were dried (Na2SO4) and the solvent was evaporated to dryness. The crude residue was purified by column chromatography (silica gel; DCM as eluent). The desired fractions were collected and evaporated in vacuo to yield intermediate D28 (0.8 g, 75%).

reactant | methylmagnesium bromide | C[Mg]Br
reactant | 4′-(4-bromophenoxy)acetophenone | 3.435 mmol, 1 g | BrC1=CC=C(OC2=CC=C(C=C2)C(C)=O)C=C1 | C14H11BrO2
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | THF | 10.304 mmol, 7.36 ml | C1CCOC1 | C4H8O
product | 2-[4-(4-Bromo-phenoxy)-phenyl]-propan-2-ol | BrC1=CC=C(OC2=CC=C(C=C2)C(C)(C)O)C=C1 | C15H15BrO2
